US07378409B2
A sample of benzyl (1S,2S,4R)-2-((Z)-but-1-enyl)-4-(isopropyl(methyl)amino)cyclohexylcarbamate (2.0 g, 5.6 mmol) was dissolved in MeOH (30 mL). The resulting solution was charged with Pearlman's catalyst (600 mg) and degassed under vacuum before being hydrogenated (50 psi H2) for 12 h. The mixture was filtered and concentrated in vacuo. The residue was dissolved in 30% HBr/AcOH (15 mL) and stirred for 30 min before being partitioned between Et2O and water. The aqueous phase was basified (NaOH) and extracted twice with EtOAc. The organic extracts were combined, dried (sodium sulfate), filtered, and concentrated to afford (1R,3R,4S)-3-butyl-N1-isopropyl-N1-methylcyclohexane-1,4-diamine (396 mg). MS found: (M+H)+=227.3.

reactant | benzyl (1S,2S,4R)-2-((Z)-but-1-enyl)-4-(isopropyl(methyl)amino)cyclohexylcarbamate | 5.6 mmol, 2.0 g | C(=C/CC)/[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)NC(OCC1=CC=CC=C1)=O | C22H34N2O2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pearlman's catalyst | 600 mg | [OH-].[OH-].[Pd+2]
product | (1R,3R,4S)-3-butyl-N1-isopropyl-N1-methylcyclohexane-1,4-diamine | 396 mg | C(CCC)[C@@H]1C[C@@H](CC[C@@H]1N)N(C)C(C)C | C14H30N2
